US06043254
(b) 5-(4-amino-phenyl)-1-methyl-imidazole
Prepared by hydrogenation of 1-methyl-5-(4-nitro-phenyl)-imidazole in MeOH on palladium/charcoal (10%) at 20° C. and 3.5 bar.

reactant | 1-methyl-5-(4-nitro-phenyl)-imidazole | CN1C=NC=C1C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2
solvent | MeOH | CO | CH4O
product | 5-(4-amino-phenyl)-1-methyl-imidazole | NC1=CC=C(C=C1)C1=CN=CN1C | C10H11N3
